* Schematics Netlist *



D_D2         $N_0001 $N_0002 D1N914 
D_D1         $N_0003 $N_0001 D1N914 
D_D4         $N_0004 $N_0005 D1N914 
R_R2         $N_0002 $N_0003  10k  
R_R4         $N_0006 $N_0002  10k  
R_R5         $N_0008 $N_0007  10k  
R_R3         $N_0003 $N_0009  10k  
R_R9         $N_0010 $N_0005  10k  
R_R7         $N_0005 $N_0009  10k  
R_R6         $N_0008 $N_0010  10k  
R_R10         $N_0008 $N_0009  20k  
V_V2         0 b 12V
R_R8         $N_0009 $N_0011  20k  
R_R11         $N_0008 $N_0009  10k  
R_R1         $N_0006 $N_0009  10k  
X_U6A         0 $N_0009 a b $N_0011 LM6132B/NS
X_U8A         0 $N_0010 a b $N_0004 LM6132B/NS
X_U9A         0 $N_0007 a b $N_0001 LM6132B/NS
V_V3         $N_0006 0  
+SIN 0 10p 1Meg 0 0 0
V_V4         $N_0008 0  
+PULSE -10pV 10pV 1p 1p 1p 6us 12us
V_V1         a 0 12V
D_D3         $N_0010 $N_0004 D1N914 
